US08791132B2
To a degassed solution of 5-(2-bromocyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (100 mg, 0.29 mmol), 1-methylindole-5-boronic acid pinacol ester (149 mg, 0.579 mmol) and potassium carbonate (120 mg, 0.87 mmol) in 1,2-DME (4 mL) and water (2 mL) was added Pd(PPh3)4 (17 mg, 0.0147 mmol). The reaction mixture was heated at 90° C. for 45 min. The reaction mixture was concentrated under reduced pressure. The residue was diluted with water (20 mL) and extracted with EtOAc (50 mL). The organic layer was dried over anhydrous sodium sulfate and evaporated. The residue was purified by reverse phase HPLC to yield 2,8-dimethyl-5-(2-(1-methyl-1H-indol-5-yl)cyclopent-1-enyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. 1H NMR, (CD3OD, TFA salt) δ (ppm): 7.21-7.38 (m, 2H), 7.2 (s, 1H), 7.04 (m, 2H), 6.9 (d, 1H), 6.8 (d, 1H), 6.21 (s, 1H), 4.62 (m, 1H), 4.35 (m, 1H), 3.65 (s, 3H), 3.58 (m, 2H), 3.01 (s, 3H), 2.81 (m, 2H), 2.6 (m, 4H), 2.41 (s, 3H), 2.21 (m, 2H).

reactant | 5-(2-bromocyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.29 mmol, 100 mg | BrC1=C(CCC1)N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C18H21BrN2
reactant | 1-methylindole-5-boronic acid pinacol ester | 0.579 mmol, 149 mg | CN1C=CC2=CC(=CC=C12)B1OC(C)(C)C(C)(C)O1 | C15H20BNO2
reactant | potassium carbonate | 0.87 mmol, 120 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.0147 mmol, 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,8-dimethyl-5-(2-(1-methyl-1H-indol-5-yl)cyclopent-1-enyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | CN1CC2=C(N(C=3C=CC(=CC23)C)C2=C(CCC2)C=2C=C3C=CN(C3=CC2)C)CC1 | C27H29N3
